Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
pravastatin / simvastatin / Livalo / mirtazapine / nicotine
 
Attending: ___.
 
Chief Complaint:
Hyperbilirubinemia
 
Major Surgical or Invasive Procedure:
ERCP
 
History of Present Illness:
Ms ___ is a ___ female with a history of CAD s/p stent in 
___, EtOH cirrhosis with recent hyperbilirubinemia on 
outpatient labs presenting for ERCP.

Patient seen by ___ on ___ and note made of increasing 
bilirubin. US performed with ?cholecystitis. Follow-up MRI with 
CBD dilation to 1.1cm without mass or stone. Per patient 
bilirubin continued to increase and at the same time she noted 
lightening of stools (alsways has dark urine). In setting of 
progressive hyperbilirubinemia she was referred for an ERCP. 
Prior to the procedure she was without right upper quadrant, 
epigastric pain or nausea. 

She presented today for the procedure. During the case a 
mass-like adenomatous appearance papilla was seen concerning for 
malignancy. Forceps biopsies were performed from the ampulla for 
histology. Cytology sample from the ampullary lesion was also 
obtained using a brush through the guidewire.   A 5cm by ___ 
biliary stent was placed successfully. Post-procedure she 
experienced abdominal discomfort with near immediate relief from 
dilaudid IV. Currently she reports mild recurrence of abdominal 
pain and dry mouth. She denies cough, shortness of breath, 
nausea, constipation, confusion. 

ROS: otherwise negative

 
Past Medical History:
ETOH cirrhosis; per patient no varices on EGD 
-- Followed by GI at ___: Dr. ___ s/p stent placement in ___
-- followed by a cardiologist: Dr. ___ at BI ___
Thyroid Nodule

 
Social History:
___
Family History:
No history of malignancy in 1st degree family relatives

 
Physical Exam:
ADMISSION EXAM:
97.7  117/50  56  16  93%RA
Gen: Jaundiced female in no distress
HEENT: icetric sclera, dry MM, OP without lesions
CV: RRR, ___ SEM 
RESP: Non-labored and clear, crackles at the bilateral bases 
that clear with cough
Abdomen: mild distension, mild TTP in epigastrium, no RUQ pain, 
no rebound, no guarding, no clear fluid wave
Ext: WWP, 1+ edema to the level of the mid shins bilaterally; 
teds in place
Neuro: no astrexis, no focal exam, moving all extremities, 
appropriate mentation
Skin: no plamar erythema, no spiders

DISCHARGE PHYSICAL EXAM:
GEN: Alert, NAD
HEENT: NC/AT, scleral icterus, OP clear, neck supple
CV: RRR, no r/g
PULM: lungs CTA B
GI: S/NT/ND, BS present
EXT: no ___ edema or calf tenderness
NEURO: non-focal
 
Pertinent Results:
Admission Labs:
___ 10:30AM BLOOD WBC-4.0 RBC-3.00* Hgb-11.4* Hct-33.0* 
MCV-110* MCH-38.0* MCHC-34.6 RDW-13.8 Plt Ct-68*
___ 10:30AM BLOOD ___ PTT-47.1* ___
___ 10:30AM BLOOD UreaN-9 Creat-0.4 Na-136 K-3.8 Cl-101 
HCO3-28 AnGap-11
___ 10:30AM BLOOD ALT-36 AST-70* AlkPhos-142* Amylase-129* 
TotBili-8.4* DirBili-2.5* IndBili-5.9
___ 10:30AM BLOOD Albumin-3.2*

Dishcarge Labs:
___ 05:37AM BLOOD WBC-3.3* RBC-2.51* Hgb-9.5* Hct-27.1* 
MCV-108* MCH-37.7* MCHC-34.8 RDW-13.9 Plt Ct-52*
___ 05:37AM BLOOD ___ PTT-42.7* ___
___ 05:37AM BLOOD Glucose-116* UreaN-9 Creat-0.5 Na-137 
K-3.9 Cl-102 HCO3-29 AnGap-10
___ 05:37AM BLOOD ALT-30 AST-66* AlkPhos-91 TotBili-7.7*
___ 05:37AM BLOOD Calcium-7.9* Phos-3.7 Mg-1.7
___ 10:30AM BLOOD Lipase-71*

___ 05:25AM BLOOD CEA-8.9*
CA ___                       75  H  

ERCP:
A mass-like adenomatous appearance papilla was seen. Forceps 
biopsies were performed from the ampulla for histology. 
Scout film was normal.
The bile duct was deeply cannulated with the sphincterotome.
Contrast was injected and there was brisk flow through the 
ducts. Contrast extended to the entire biliary tree.
There was a 1cm long stricture of the distal CBD and a 8mm long 
stricture of the distal PD.
Double duct sign was noted, suggestive of neoplasm.
The CBD was 15mm in diameter. No filling defects were 
identified.
The PD was 4 mm in diameter. No filling defects were identified.
The left and right hepatic ducts were mildly dilated.
A biliary sphincterotomy was not made due to elevated INR (1.9). 

Cytology sample from the ampullary lesion was obtained using a 
brush through the guidewire. 
A 5cm by ___ biliary stent was placed successfully.
Excellent bile and contrast drainage was seen endoscopically and 
fluoroscopically.

Pathology
___ Biopsy: Duodenal type mucose with a few dilated 
glands. No evidence of malignancy.
Common Bile Duct Brushings: ATYPICAL. Rare highly atypical 
epithelial cells in a background of reactive glandular 
epithelial cells.

CTA/P -IMPRESSION:
-No periampullary lesion is visualized. No significant main 
pancreatic ductal
dilatation, which continues to the ampullary region. Plastic CBD 
stent in
place with pneumobilia.
-Generalized stranding of the abdomen and pelvis is noted, which 
may be
secondary to portal hypertension rather than soft tissue tumor 
infiltration.
Splenorenal shunt.
-No focal hepatic lesions.
-Trace right pleural effusion.
 
Brief Hospital Course:
Ms ___ is a ___ female with a history of CAD s/p stent in 
___, EtOH cirrhosis with recent hyperbilirubinemia on 
outpatient labs presenting for ERCP in evaluation of biliary 
obstruction. Admitted for monitoring s/p the procedure during 
which an ampullary mass concerning for malignancy was seen and 
biopsied. 

# Biliary obstruction. Per the ERCP team concerned for 
malignancy based on imaging. Biopsies/brushings were taken. 
Suspicion disclosed to the patient by the ___ team Dr. ___ 
___, whom she met in surgical consultation the evening of ERCP. 
Biopsy ultimately did not reveal e/o malignancy, CT without 
lesion noted. The patient was monitored until bili was 
downtrending and was then discharged home. She was tolerating a 
regular diet at the time of discharge. She was given 5 days of 
ppx ciprofloxacin at discharge per ERCP recs. Of note, after 
discharge, brushings returned with atypical cells. ERCP team to 
contact pt to discuss this, and pt will be following up in 
pancreatic multidisciplinary pancreas clinic.. 

# EtOH cirrhosis. Evidence of coagulopathy on labs (INR 1.9), 
thrombocytopenia and abnl LFTs c/w known cirrhosis. Confirmed 
with PCP that labs were consistent with prior values. Of note, 
platelet count this admission somewhat lower than recent value 
of 90's, but still within historical range for this patient.

# H/A: Pt with headache on HD2. She described headache as a 
pressure and a stabbing sensation, frontal in location. She also 
noted some flashes of light in her field of vision earlier that 
morning. She does report a migraine in the past with similar 
flashes of light. H/a resolved with advancing diet and 1 dose of 
fioricet.

 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Bumetanide 0.5 mg PO DAILY 
2. ClonazePAM 1 mg PO QHS anxiety/insomnia 
3. Fluoxetine 20 mg PO DAILY 
4. FoLIC Acid 1 mg PO DAILY 
5. Nitroglycerin SL 0.3 mg SL Q5MIN:PRN chest pain 
6. Ondansetron 4 mg PO Q8H:PRN nausea 
7. Propranolol 10 mg PO DAILY 
8. Rifaximin 550 mg PO BID 
9. Spironolactone 50 mg PO DAILY 
10. Tolterodine 1 mg PO BID 
11. Vitamin D 1000 UNIT PO DAILY 
12. Nicotine Patch 14 mg TD DAILY 
13. Thiamine 100 mg PO DAILY 

 
Discharge Medications:
1. Bumetanide 0.5 mg PO DAILY 
2. ClonazePAM 1 mg PO QHS anxiety/insomnia 
3. Fluoxetine 20 mg PO DAILY 
4. FoLIC Acid 1 mg PO DAILY 
5. Nicotine Patch 14 mg TD DAILY 
6. Ondansetron 4 mg PO Q8H:PRN nausea 
7. Propranolol 10 mg PO BID 
8. Rifaximin 550 mg PO BID 
9. Spironolactone 50 mg PO DAILY 
10. Thiamine 100 mg PO DAILY 
11. Tolterodine 1 mg PO BID 
12. Nitroglycerin SL 0.3 mg SL Q5MIN:PRN chest pain 
13. Vitamin D 1000 UNIT PO DAILY 
14. Ciprofloxacin HCl 500 mg PO BID Duration: 5 Days 
To complete a course of antibiotics ending on ___. Do not 
take Zofran with this medication. 
RX *ciprofloxacin HCl 500 mg 1 tablet(s) by mouth twice a day 
Disp #*7 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Bile Duct Obstruction

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You underwent a procedure to open up a blockage in your bile 
ducts. You were admitted for monitoring following this 
procedure. Given concerns for a possible mass causing this 
blockage, you had samples taken. It is VERY IMPORTANT that you 
follow up in the pancreas clinic to review your biopsy results. 

You are being give a prescription for an antibiotic to end onf 
___. There were no other changes to your medications.
 
Followup Instructions:
___